US08039490B2
4-(5-Fluoro-thiophene-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester
From 4-[(5-fluoro-thiophen-2-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester (968 mg) by procedure E.2. MeCN (0.6 ml) was added to the reaction mixture. Yield: 577 mg (60%). Light brown gum. MS (m/z): 336.4 ([M+Na]+).

reactant | 4-[(5-fluoro-thiophen-2-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 968 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C=1SC(=CC1)F | C15H22FNO3S
solvent | MeCN | 0.6 ml | CC#N | C2H3N
product | 4-(5-Fluoro-thiophene-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C=1SC(=CC1)F | C15H20FNO3S
